US06719520B2
3-[4-(trans-2-Carboxyethenyl)phenylamino]-4-(4-chlorophenyl)-1H-pyrrole-2,5-dione
A mixture of trans-4-aminocinnamic acid (0.205 g, 1.26 mmol), 3-chloro-4-(4-chlorophenyl)-1H-pyrrole-2,5-dione (0.123 g, 0.51 mmol) and 1-methyl-2-pyrrolidinone (1.0 mL) was heated in a sealed tube in a hotblock set at 69° C., for 28.5 hours. The mixture was diluted with aqueous hydrochloric acid (10 mL) and extracted with ethyl acetate (2×20 mL). The combined organics were washed with brine (2×10 mL), dried over anhydrous magnesium sulphate and evaporated to dryness. The residue was triturated with a mixture of dichloromethane and ethyl acetate to afford the title compound as a solid.

reactant | trans-4-aminocinnamic acid | 1.26 mmol, 0.205 g | NC1=CC=C(/C=C/C(=O)O)C=C1 | C9H9NO2
reactant | 3-chloro-4-(4-chlorophenyl)-1H-pyrrole-2,5-dione | 0.51 mmol, 0.123 g | ClC=1C(NC(C1C1=CC=C(C=C1)Cl)=O)=O | C10H5Cl2NO2
reactant | 1-methyl-2-pyrrolidinone | 1.0 mL | CN1C(CCC1)=O | C5H9NO
solvent | hydrochloric acid | 10 mL | Cl | ClH
product | 3-[4-(trans-2-Carboxyethenyl)phenylamino]-4-(4-chlorophenyl)-1H-pyrrole-2,5-dione | C(=O)(O)/C=C/C1=CC=C(C=C1)NC=1C(NC(C1C1=CC=C(C=C1)Cl)=O)=O | C19H13ClN2O4
